US04245107
368 mg. of phenylsulfinylacetic acid and 7-amino-3-methoxymethyl-3-cephem-4-carboxylic acid were reacted in the same manner as described in Example 28 and 320 mg. of 7-(phenylsulfinylacetamido)-3-methoxymethyl-3-cephem-4-carboxylic acid were obtained.

reactant | phenylsulfinylacetic acid | C1(=CC=CC=C1)S(=O)CC(=O)O | C8H8O3S
reactant | 7-amino-3-methoxymethyl-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)COC)C(=O)O)C1=O | C9H12N2O4S
product | 7-(phenylsulfinylacetamido)-3-methoxymethyl-3-cephem-4-carboxylic acid | C1(=CC=CC=C1)S(=O)CC(=O)NC1[C@@H]2N(C(=C(CS2)COC)C(=O)O)C1=O | C17H18N2O6S2
